US05514810
a) 3-(4-Ethoxyphenyl)-propionic acid
16.62 g (100 mmol) of 3-(4-hydroxyphenyl)-propionic acid is dissolved with stirring and covering with argon in 45 ml (225.0 mmol) of 5N sodium hydroxide solution, and 15.73 g (100 mmol), (98%) of diethyl sulfate is instilled quickly so that the temperature does not exceed 40° C. (water cooling). After completion of the addition, it is heated for 30 more minutes to 100° C. After the cooling, it is extracted with diethyl ether, then acidified with sulfuric acid to pH 4 and the precipitated compound in ether is taken up. After drying on sodium sulfate, it is evaporated to dryness in a vacuum. The title compound is obtained as solid. Yield: 15.21 g (78.3% of theory) Elementary analysis: Cld: C 68.02 H 7.26 Fnd: C 68.13 H 7.34

reactant | 3-(4-hydroxyphenyl)-propionic acid | 100 mmol, 16.62 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | sodium hydroxide | 225.0 mmol, 5N, 45 ml | [OH-].[Na+]
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | water | O | H2O
product | 3-(4-Ethoxyphenyl)-propionic acid | C(C)OC1=CC=C(C=C1)CCC(=O)O | C11H14O3
